US05599814
a. Diethyl 6-amino-4-hydroxyquinoline-2,3-dicarboxylate
A stirred mixture of diethyl 4-hydroxy-6-nitroquinoline-2,3-dicarboxylate (4.4 g, 13 mM), powdered iron (6.6 g, 118 mM) and glacial acetic acid (18.5 g, 307 mM) in ethanol (80 mL) was refluxed for 20 hr under a nitrogen atmosphere. The reaction mixture was cooled and filtered and the filtrate was concentrated. The dark residue was chromatographed (eluant: methylene chloride/methanol; 98/2) over silical gel to provide (3.01 g, 75.3%) the title compound as light orange crystals, mp 219°-221° C. MS(CI): 305 (M+H)

reactant | diethyl 4-hydroxy-6-nitroquinoline-2,3-dicarboxylate | 13 mM, 4.4 g | OC1=C(C(=NC2=CC=C(C=C12)[N+](=O)[O-])C(=O)OCC)C(=O)OCC | C15H14N2O7
reactant | acetic acid | 307 mM, 18.5 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 80 mL | C(C)O | C2H6O
catalyst | iron | 118 mM, 6.6 g | [Fe] | Fe
product | Diethyl 6-amino-4-hydroxyquinoline-2,3-dicarboxylate | 3.01 g, 75.3% | NC=1C=C2C(=C(C(=NC2=CC1)C(=O)OCC)C(=O)OCC)O | C15H16N2O5
